plaintext
* Transistors
Q1 2 1 8 NPN
Q2 4 3 8 NPN

* Resistors
R1 1 7 R1_value
R2 4 7 R2_value
R0 2 6 R0_value
R0_1 6 4 R0_value

* Current Source
I_BIAS 8 9 I_value

* Voltage Sources
VCC 6 0 DC VCC_value
VT1 7 0 DC VT1_value
VT2 7 0 DC VT2_value
VEE 9 0 DC VEE_value

* Nodes
* 1 = Base of Q1
* 2 = Collector of Q1 connecting to R0
* 3 = Base of Q2 (connected to VCC)
* 4 = Collector of Q2 connecting to R0
* 6 = Common node between R0 and VCC
* 7 = Ground connection for input voltages
* 8 = Common emitter node connecting to I_BIAS
* 9 = Negative terminal for I_BIAS (connected to -VEE)

.end